US08314088B2
2-[benzyl({3-chloro-5-[methyl(1-methylethyl)amino]pyrazin-2-yl}methyl)amino]ethanol
Sodium triacetoxyborohydride (12.8 g) was added to a solution of 3-chloro-5-[methyl(1-methylethyl)amino]pyrazine-2-carbaldehyde (8.6 g), N-benzylethanolamine (7.3 g) and acetic acid (6.9 mL) in acetonitrile (86 mL), and the mixture was stirred at room temperature for 5 hr. To the reaction mixture were added ethyl acetate and 2M aqueous potassium carbonate solution (86 mL), and the aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by basic silica gel column chromatography (solvent gradient: 10→30% ethyl acetate/hexane) to give the title compound (15.1 g, quantitative) as a pale-yellow oil.

reactant | Sodium triacetoxyborohydride | 12.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-chloro-5-[methyl(1-methylethyl)amino]pyrazine-2-carbaldehyde | 8.6 g | ClC=1C(=NC=C(N1)N(C(C)C)C)C=O | C9H12ClN3O
reactant | N-benzylethanolamine | 7.3 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | potassium carbonate | 2M, 86 mL | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 86 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 6.9 mL | C(C)(=O)O | C2H4O2
product | 2-[benzyl({3-chloro-5-[methyl(1-methylethyl)amino]pyrazin-2-yl}methyl)amino]ethanol | 15.1 g | C(C1=CC=CC=C1)N(CCO)CC1=NC=C(N=C1Cl)N(C(C)C)C | C18H25ClN4O
